US06417212B1
C. 2-(2-Benzyl-4-hydroxy-phenoxy)-2-methyl-propionic acid ethyl ester
A solution of 2-[4-benzyloxy-2-(hydroxy-phenyl-methyl)-phenoxy]-2-methyl-propionic acid ethyl ester (1.67 g, 3.97 mmol maximum) in ethanol (50 mL) was treated with 5% Pd/C (0.42 g) and hydrogen (60 psi, room temperature, 18 h). The mixture was filtered and concentrated to a viscous colorless oil (1.15 g, 91%): 1H NMR (400 MHz, CDCl3) δ1.32 (t, 3H, J=7.1 Hz), 1.51 (s, 6H), 3.99 (s, 2H), 4.30 (q, 2H, J=7.0 Hz), 4.93 (brs, 1H), 6.58-6.66 (m, 3H), 7.22-7.34 (m, 5H); MS (ES) m/e 315 [M+1].

reactant | 2-[4-benzyloxy-2-(hydroxy-phenyl-methyl)-phenoxy]-2-methyl-propionic acid ethyl ester | 3.97 mmol, 1.67 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)C(C1=CC=CC=C1)O)=O | C26H28O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.42 g | [Pd] | Pd
product | 2-(2-Benzyl-4-hydroxy-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)CC1=CC=CC=C1)=O | C19H22O4
